US07091353B2
Triethylamine (4.66 g, 46.09 mmol) was added to a stirred suspension of methyl 3-bromo-2-bromomethylbenzoate (6.45 g, 20.95 mmol) and L-glutamine t-butyl ester hydrochloride (5.0 g, 20.95 mmol) in THF (100 mL). The mixture was heated to reflux for 18 hours. The mixture was cooled to room temperature and solvent was removed. The residue was dissolved in methylene chloride (100 mL) and washed with water (2×80 mL), brine (80 mL) and dried (MgSO4). Solvent was removed and the residue was purified by chromatography (CH2Cl2:CH3OH 97.5:2.5) to afford tert-butyl 2-(4-bromo-1-oxoisoindolin-2-yl)-4-carbamoylbutanoate (3.97 g, 48%): 1H NMR (CDCl3) δ 7.74 (d, J=7.1 Hz, 1H), 7.65 (d, J=7.9 Hz, 1H), 7.35 (t, J=7.8 Hz, 1H), 6.15 (s, 1H), 5.77 (s, 1H), 5.02–4.96 (m, 1H), 4.58 (d, J=17.4 Hz, 1H), 4.34 (d, J=17.4 Hz, 1H), 2.45–2.10 (m, 4H), 1.46 (s, 9H); 13C NMR (CDCl3) δ 173.83, 169.42, 168.74, 142.28, 134.70, 133.65, 129.80, 122.70, 117.75, 82.66, 54.29, 47.80, 32.27, 27.95, 25.54.

reactant | Triethylamine | 46.09 mmol, 4.66 g | C(C)N(CC)CC | C6H15N
reactant | methyl 3-bromo-2-bromomethylbenzoate | 20.95 mmol, 6.45 g | BrC=1C(=C(C(=O)OC)C=CC1)CBr | C9H8Br2O2
reactant | L-glutamine t-butyl ester hydrochloride | 20.95 mmol, 5.0 g | Cl.C(C)(C)(C)OC([C@@H](N)CCC(N)=O)=O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-(4-bromo-1-oxoisoindolin-2-yl)-4-carbamoylbutanoate | 3.97 g, 48% | BrC1=C2CN(C(C2=CC=C1)=O)C(C(=O)OC(C)(C)C)CCC(N)=O | C17H21BrN2O4
